US08431695B2
Step 1: Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-(4-benzylmorpholin-2-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine
A stirred, degassed mixture of 7-(4-benzylmorpholin-2-yl)-5-bromopyrrolo[2,1-f][1,2,4]triazin-4-amine (701 mg, 1.81 mmol) and tetrakis(triphenylphosphine)palladium(0) (350 mg, 0.30 mmol) in DMF (2 mL) was stirred under N2 for 30 min at 80 C, then treated with 2-benzyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2H-indazole (754 mg, 2.26 mmol), K3PO4 (765 mg, 3.61 mmol) and H2O (165 mg, 9 mmol). The reaction was heated (100° C.) for 1 h and then cooled to rt. The mixture was partitioned between ethyl acetate (25 mL) and MeOH (2.5 mL) and the mixture filtered through a long silica plug. After removal of the volatiles in vacuo, the residue was purified by ISCO® chromatography using a gradient of 1% to 10% MeOH in CH2Cl2 to afford 401 mg (43%) of the desired product. 1H NMR (300 MHz, DMSO-d6) δ 8.54 (s, 1 H), 7.90 (s, 1 H), 7.79 (d, 1 H, J=9 Hz), 7.57 (s, 1 H), 7.21-7.38 (m, 5 H), 7:12 (d, 1 H, J=9 Hz), 6.73 (s, 1 H), 5.65 (s, 2 H), 5.10 (dd, 1H, J=10, 2Hz), 3.88 (d, 1H, J=12 Hz), 3.69 (dd, 1H, J=10, 9 Hz), 3.57 (d, 1H, J=13 Hz), 3.51 (d, 1H, J=13 Hz), 2.97 (d, 1H, J=12 Hz), 2.17-2.28 (m, 1H), 2.67 (d, 1H, J=11 Hz), 2.36 (t, 1H, J=11 Hz); ES-MS m/z 516.3 [M+H]+, HPLC RT (min) 2.80.

reactant | 7-(4-benzylmorpholin-2-yl)-5-bromopyrrolo[2,1-f][1,2,4]triazin-4-amine | 1.81 mmol, 701 mg | C(C1=CC=CC=C1)N1CC(OCC1)C1=CC(=C2C(=NC=NN21)N)Br | C17H18BrN5O
reactant | 2-benzyl-6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-2H-indazole | 2.26 mmol, 754 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)B1OC(C(O1)(C)C)(C)C | C20H23BN2O2
reactant | K3PO4 | 3.61 mmol, 765 mg | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | H2O | 9 mmol, 165 mg | O | H2O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.30 mmol, 350 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2-benzyl-2H-indazol-6-yl)-7-(4-benzylmorpholin-2-yl)pyrrolo[2,1-f][1,2,4]triazin-4-amine | 401 mg, 43% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN(CCO2)CC2=CC=CC=C2 | C31H29N7O
